* C:\Users\tomto\Documents\skola\Skola\NAO\cv5\LT_data\simAC.asc
VDD UCC USS 1.8
VGND USS 0 0
VIN N001 0 0.9 AC 1
CL OUT 0 10p
EOFFSET OFFSET 0 N001 N002 1
E1 N002 0 N003 0 1
E2 N004 0 OUT 0 1
R1 N004 N003 10Meg
C2 N003 0 10 Rpar=0
XX1 N002 N001 OUT UCC USS test ota

* block symbol definitions
.subckt ota INN INP OUT UCC USS test
M1 N001 INN N002 USS nch l=2u w=5u
M2 test INP N002 USS nch l=2u w=5u
M3 N002 N003 USS USS nch l=2u w=10u
M4 test N001 UCC UCC pch l=2u w=20u
M5 N001 N001 UCC UCC pch l=2u w=20u
M6 OUT N003 USS USS nch l=2u w=50u
M7 OUT test UCC UCC pch l=2u w=200u
M8 N003 N003 USS USS nch l=2u w=10u
R1 UCC N003 60k
Cc OUT test 3p
.inc cmos018.txt
.ends ota

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\tomto\AppData\Local\LTspice\lib\cmp\standard.mos
.ac dec 100 1 100Meg
* .option logopinfo
.backanno
.end
